US08293768B2
Synthesis of ethyl 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with phenethyl 4-methylbenzenesulfonate to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 63% yield: 1H NMR (300 MHz, CDCl3) δ 7.35-7.19 (m, 5H), 6.12 (s, 1H), 4.27 (q, J=7.1 Hz, 2H), 3.78-3.71 (m, 2H), 3.56 (t, J=7.4 Hz, 2H), 3.47-3.39 (m, 2H), 2.90 (t, J=7.4 Hz, 2H), 2.49 (s, 3H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 359.3 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | phenethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=CC=CC=C1 | C15H16O3S
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylate | 63% yield | CC1=C(SC(=C1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C(=O)OCC | C19H22N2O3S
